US06900216B2
Methyl thioglycolate (11.3 ml) was added under nitrogen to a stirred solution of triethylamine (45 ml) in dimethyl sulphoxide (160 ml), then the mixture was stirred at ambient temperature for 30 minutes. A solution of 2-chloro-6-fluorobenzaldehyde (20 g) in dimethyl sulphoxide (80 ml) was added then the mixture was stirred at 95° C. for 4.66 hours, allowed to stand at ambient temperature for 18 hours and poured into water (1600 ml). The resulting solid was collected by filtration, washed with water (3×100 ml), and dried in vacuo to give methyl 4-chlorobenzo[b]thiophene-2-carboxylate (22.4 g) as an off-white solid, m.p. 84-86° C.

reactant | Methyl thioglycolate | 11.3 ml | C(CS)(=O)OC | C3H6O2S
reactant | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-6-fluorobenzaldehyde | 20 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | water | 1600 ml | O | H2O
solvent | dimethyl sulphoxide | 160 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 80 ml | CS(=O)C | C2H6OS
product | methyl 4-chlorobenzo[b]thiophene-2-carboxylate | 22.4 g | ClC1=CC=CC=2SC(=CC21)C(=O)OC | C10H7ClO2S
